US04959359
To a solution of 1.5 g (0.0033 mol) of cis-rac.-6-(acetyloxy)-6,7-dihydro-7-(4-methoxyphenyl)-3-methyl-4-[2-(dimethylamino)ethyl]-2-phenyl-1,4-thiazepin-5(4H)-one in 36 ml of ethanol was added 24 ml of 0.5 M potassium carbonate. After the reaction was heated for 1 hour at 70°-80°, it was concentrated to a low volume and extracted with ethyl acetate. The organic extracts were washed with brine, dried (MgSO4) and the solvent was removed under reduced pressure. The residue was crystallized from ether to give 0.9 g (67%) of cis-rac.-6-(hydroxy)-6,7-dihydro-7-(4-methoxyphenyl)-3-methyl-4-[2(dimethylamino)ethyl]-2-phenyl-1,4-thiazepin-5(4H)-one, mp 110°-111°.

reactant | cis-rac.-6-(acetyloxy)-6,7-dihydro-7-(4-methoxyphenyl)-3-methyl-4-[2-(dimethylamino)ethyl]-2-phenyl-1,4-thiazepin-5(4H)-one | 0.0033 mol, 1.5 g | C(C)(=O)O[C@@H]1C(N(C(=C(S[C@@H]1C1=CC=C(C=C1)OC)C1=CC=CC=C1)C)CCN(C)C)=O | C25H30N2O4S
reactant | potassium carbonate | 0.5 M, 24 ml | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 36 ml | C(C)O | C2H6O
product | cis-rac.-6-(hydroxy)-6,7-dihydro-7-(4-methoxyphenyl)-3-methyl-4-[2(dimethylamino)ethyl]-2-phenyl-1,4-thiazepin-5(4H)-one | 0.9 g, 67% | O[C@@H]1C(N(C(=C(S[C@@H]1C1=CC=C(C=C1)OC)C1=CC=CC=C1)C)CCN(C)C)=O | C23H28N2O3S
